US06242626B1
Synthesis of [(dichloromethylsilyl)]ethyldichloroborane-dimethyl sulphide
20 ml (24.44 g; 0.173 mol) of dichloromethylvinylsilane were dissolved in 10 ml of dichloromethane and 20 ml (25.1 g; 0.173 mol) of dimethyl sulphide-dichloroborane were added dropwise at 0° C. with constant stirring. After 5 h at 0° C., the reaction mixture was heated to room temperature and, after a further 24 h, the solvent was removed under reduced pressure. The yield of [(dichloromethylsilyl)]ethyldi-chloroborane-dimethyl sulphide was quantitative.

reactant | dichloromethylvinylsilane | 0.173 mol, 20 ml, 24.44 g | ClC(Cl)C=C[SiH3] | C3H6Cl2Si
reactant | dimethyl sulphide dichloroborane | 0.173 mol, 20 ml, 25.1 g | CSC.ClBCl
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | [(dichloromethylsilyl)]ethyldichloroborane dimethyl sulphide | ClC(Cl)[SiH2]CCB(Cl)Cl.CSC | InChI=1S/C3H7BCl4Si.C2H6S/c5-3(6)9-2-1-4(7)8;1-3-2/h3H,1-2,9H2;1-2H3
